US04603133
Methyl 2-[N-(3-Morpholinopropyl)aminosulfonyl]-6-nitrobenzoate
A solution of 4-(3-aminopropyl)morpholine (1.04 g, 7.2 mmol) in THF (25 ml) was added slowly to a cooled solution of methyl 2-chlorosulfonyl-6-nitrobenzoate (1.0 g, 3.6 mmol) in THF (75 ml). After stirring at 20°-25° C. for 20 hours, THF was removed under reduced pressure and the residue partitioned between EtOAc and a saturated aqueous solution of NaCl. The EtOAc extract was dried (Na2SO4), filtered and concentrated. Flash chromatography of the residue and elution with 2% MeOH-98% CHCl3 gave 1.4 g of product as an oil.

reactant | 4-(3-aminopropyl)morpholine | 7.2 mmol, 1.04 g | NCCCN1CCOCC1 | C7H16N2O
reactant | methyl 2-chlorosulfonyl-6-nitrobenzoate | 3.6 mmol, 1.0 g | ClS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO6S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | Methyl 2-[N-(3-Morpholinopropyl)aminosulfonyl]-6-nitrobenzoate | 1.4 g | O1CCN(CC1)CCCNS(=O)(=O)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C15H21N3O7S
